US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (100 mg, 0.32 mmol) in DMSO (3 mL) was added DIEA (81.5 mg, 0.63 mmol) and isobutyl(methyl)amine (41 mg, 0.47 mmol), and the reaction was stirred overnight at 70° C. in an oil bath. The reaction mixture was cooled to room temperature, diluted with water (50 mL), and extracted with ethyl acetate (3×20 mL). The organic layers were combined, dried over magnesium sulfate, and concentrated in vacuo to give the residue, which was purified via silica gel column chromatography (1% ethyl acetate in petroleum ether) to afford methyl 2-(4-fluorophenyl)-3-(isobutyl(methyl)amino)quinoxaline-6-carboxylate as a light yellow solid (80 mg, 69%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.32 mmol, 100 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | DIEA | 0.63 mmol, 81.5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | isobutyl(methyl)amine | 0.47 mmol, 41 mg | C(C(C)C)NC | C5H13N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | methyl 2-(4-fluorophenyl)-3-(isobutyl(methyl)amino)quinoxaline-6-carboxylate | 80 mg, 69% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C)CC(C)C)C(=O)OC | C21H22FN3O2
